US06350904B1
in stage e) 2-methyl-4,5-di(methylsulfonyl)benzoyl chloride is reacted with guanidinium chloride to give N-diaminomethylene-2-methyl-4,5-di(methylsulfonyl)benzamide.

reactant | 2-methyl-4,5-di(methylsulfonyl)benzoyl chloride | CC1=C(C(=O)Cl)C=C(C(=C1)S(=O)(=O)C)S(=O)(=O)C | C10H11ClO5S2
reactant | guanidinium chloride | [Cl-].NC(=[NH2+])N
product | N-diaminomethylene-2-methyl-4,5-di(methylsulfonyl)benzamide | NC(=NC(C1=C(C=C(C(=C1)S(=O)(=O)C)S(=O)(=O)C)C)=O)N | C11H15N3O5S2
